US05532235
5,6,7,8-Tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one
A mixture of 0.5 g of 5-(4-nitrobenzoyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine in 5 ml of dimethyl sulfoxide and 1 ml of acetic anhydride is stirred at room temperature 16 hours. To the mixture is added 10 ml of water and 1N NaHCO3. The mixture is extracted with ethyl acetate and the extract washed with water, 1N NaHCO3, brine and dried. The solvent is removed to give a solid. chromatography on silica gel with ethyl acetate as solvent gives the product as a solid, m.p. 188°-190° C.

reactant | 5-(4-nitrobenzoyl)-9-hydroxy-6,7,8,9-tetrahydro-5H-pyrido[3,2-b]azepine | 0.5 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)O)N=CC=C3)C=C1 | C16H15N3O4
reactant | water | 10 ml | O | H2O
reactant | NaHCO3 | 1N | C(=O)(O)[O-].[Na+]
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,6,7,8-Tetrahydro-5-(4-nitrobenzoyl)-9H-pyrido[3,2-b]azepin-9-one | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)=O)N=CC=C3)C=C1 | C16H13N3O4
